US07495007B2
To a solution of 3,4-difluoro-phenol (10 g, 77 mmol) in N,N-dimethylformamide (50 mL) was added potassium carbonate (20 g, 145 mmol) and iodoethane (50 g, 320 mmol, Aldrich). The reaction mixture was heated at refluxing for 48 h. The crude was cooled to room temperature and filtered through a short pad of celite. The filtrate was concentrated and the residue was purified by chromatography (EtOAc:Hexanes=1:8) to give 4-ethoxy-1,2-difluoro-benzene as colorless oil (Yield 11 g, 90%).

reactant | 3,4-difluoro-phenol | 77 mmol, 10 g | FC=1C=C(C=CC1F)O | C6H4F2O
reactant | potassium carbonate | 145 mmol, 20 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodoethane | 320 mmol, 50 g | ICC | C2H5I
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 4-ethoxy-1,2-difluoro-benzene | Yield 11 g, 90% | C(C)OC1=CC(=C(C=C1)F)F | C8H8F2O
